US04407806
To a 500-ml 3-neck round bottom flask equipped with an addition funnel, septum, thermometer and an argon inlet is added 150 ml of anhydrous diethylether and 94 ml of 1.6 molar butyllithium solution (in hexane). The system is cooled to -120° C. and 23.8 gm of 3-bromopyrimidine in 75 ml of anhydrous tetrahydrofuran is added over 2 hours. After addition of the 3-bromopyridine, the system is stirred for an additional 45 minutes at this time, 18.3 ml of 4-methoxybenzaldehyde in 75 ml of tetrahydrofuran is added to the system while maintaining a temperature of -120° C. The system is kept at -120° C. for an additional 5 hours after addition of the 4-methoxy-benzaldehyde and afterwards the system is allowed to come to room temperature. After 10 hours at room temperature, the system is quenched with saturated ammonium chloride (in water). The system is adjusted to pH 2 with concentrated HCl solution. The solution is extracted with ether. The aqueous solution is then made basic with a 50% NaOH solution. The product is extracted with methylene chloride which then dried over sodium sulfate. The methylene chloride is removed by stripping and the residue triturated with hexane to give the 3-pyridyl-4-methoxyphenylcarbinol, which is converted to the compounds of this invention as described in Examples 1-7.

reactant | butyllithium | 1.6 molar, 94 ml | C(CCC)[Li]
reactant | 3-bromopyrimidine | 23.8 gm | BrN1CN=CC=C1 | C4H5BrN2
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-methoxybenzaldehyde | 18.3 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
product | 3-pyridyl-4-methoxyphenylcarbinol | N1=CC(=CC=C1)C(O)C1=CC=C(C=C1)OC | C13H13NO2
